US09403846B2
Step 8. Synthesis of N-[(4R,4aR,6R,8aS)-6-cyclopropyl-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C31)
Diethyl azodicarboxylate (92 μL, 0.59 mmol) was added to a 0° C. solution of triphenylphosphine (153 mg, 0.583 mmol) in tetrahydrofuran (7 mL), and the mixture was stirred for 10 minutes in the ice bath. A solution of N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C30) (90 mg, 0.20 mmol) in tetrahydrofuran (2 mL) was added drop-wise to the reaction mixture, which was then stirred for 1 hour under ice cooling. The reaction mixture was concentrated in vacuo; purification via silica gel chromatography (Gradient: 0% to 80% ethyl acetate in heptane) afforded the product as a gum. Yield: 45 mg, 0.10 mmol, 50%. LCMS m/z 441.1 [M−H+].

reactant | Diethyl azodicarboxylate | 0.59 mmol, 92 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.583 mmol, 153 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | 0.20 mmol, 90 mg | C1(CC1)[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)[C@H](C)O | C24H26F2N2O3S
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[(4R,4aR,6R,8aS)-6-cyclopropyl-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | C1(CC1)[C@H]1C[C@@H]2[C@@](N=C(S[C@@H]2C)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C24H24F2N2O2S
